US05290780
5-(2-Bromophenyl)-1H-tetrazole
To a solution of 1.0 g of 5-(2-bromophenyl)-1-(trimethylstannyl)-1H-tetrazole in toluene/THF (10:1) at room temperature is added HCl gas, via a bubbler. Gas addition is continued for 5 minutes after the appearance of a precipitate and the solid is then isolated by filtration and washed with hexanes.

reactant | 5-(2-bromophenyl)-1-(trimethylstannyl)-1H-tetrazole | 1.0 g | BrC1=C(C=CC=C1)C1=NN=NN1[Sn](C)(C)C
reactant | HCl | Cl | ClH
solvent | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
product | 5-(2-Bromophenyl)-1H-tetrazole | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
